US05773448
1-(2-Hydroxyethyl)-3-methyl-3-phenyl-1,3-dihydro-2H-indol-2-one:
Prepared from 3-methyl-3-phenyl-1,3-dihydro-2H-indol-2-one (prepared by the method of Endler and Becker; Organic Syntheses Coll. vol. 4 page 657) and 2-(2-chloroethoxy)tetrahydro-2H-pyran.

reactant | 3-methyl-3-phenyl-1,3-dihydro-2H-indol-2-one | CC1(C(NC2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H13NO
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 1-(2-Hydroxyethyl)-3-methyl-3-phenyl-1,3-dihydro-2H-indol-2-one | OCCN1C(C(C2=CC=CC=C12)(C1=CC=CC=C1)C)=O | C17H17NO2
